US07683049B2
Step 2: 1,4-Dibenzyl-2-aminomethyl-piperazine
To a stirred suspension of LAH (0.9 g, 25.9 mmol) in dry THF (150 mL) was added 1,4-dibenzyl-piperazine-2-carboxylic acid amide (4.0 g, 12.93 mmol) and the mixture was stirred under reflux for 20 h (monitored by TLC). The stirred mixture was cooled with an ice-bath and quenched with Rochelle's salt (6 mL), warmed to room temperature, and the suspension was poured over a pad of silica gel (20 mm). The celite was washed with 15% MeOH in CH2Cl2 with 1% NH4OH (3×50 mL) and eluted through pad of silica gel. Th eluent was concentrated under reduced pressure to give the desired product in 99% yield.

reactant | LAH | 25.9 mmol, 0.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1,4-dibenzyl-piperazine-2-carboxylic acid amide | 12.93 mmol, 4.0 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(=O)N | C19H23N3O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1,4-Dibenzyl-2-aminomethyl-piperazine | 99% yield | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN | C19H25N3
